US07687627B2
(S)-N-{3-[4-(1,3-dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
A mixture of (S)-N-{3-[4-(4-hydroxy-4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.209 mmol), paraformaldehyde (0.233 mmol), p-toluene sulfonic acid (0.248 mmol), 4° A molecular sieves (0.160 g) in benzene (20 ml) was heated at reflux for 2 to 3 hours under stirring. The solvent was removed under vacuum to provide a residue. The residue was extracted with ethyl acetate water mixture. The combined organic layer was dried and concentrated to afford a crude product. The silica gel column chromatography afforded title compound in 57% yield.

reactant | (S)-N-{3-[4-(4-hydroxy-4-hydroxymethyl-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.209 mmol | OC1(CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)CO | C18H25N3O5
reactant | paraformaldehyde | 0.233 mmol | C=O | CH2O
reactant | p-toluene sulfonic acid | 0.248 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | (S)-N-{3-[4-(1,3-dioxa-8-aza-spiro[4.5]dec-8-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 57% yield | O1COCC12CCN(CC2)C2=CC=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O | C19H25N3O5
